US07556909B2
Synthesis of sodium 2-hydroxy-1,1,3,3,3-pentafluoro-propane-1-sulfonate (Anion 1)
In 43 g of water was dissolved 14.6 g of sodium 2-benzoyloxy-1,1,3,3,3-pentafluoro-propane-1-sulfonate synthesized in Synthesis Example 9. The solution was stirred under ice cooling. To the solution, 7.4 g of a 26% sodium hydroxide aqueous solution was added dropwise at a temperature below 10° C. The reaction solution was aged for 1 hour at the temperature and for a further 1 hour at room temperature. The solution was washed with toluene, from which an aqueous layer was separated. It was an aqueous solution of the target compound, sodium 2-hydroxy-1,1,3,3,3-pentafluoropropane-1-sulfonate. Without further isolation, the aqueous solution was directly analyzed by NMR spectroscopy and TOFMS for confirming the formation of the target compound.

reactant | sodium 2-benzoyloxy-1,1,3,3,3-pentafluoro-propane-1-sulfonate | 14.6 g | C(C1=CC=CC=C1)(=O)OC(C(S(=O)(=O)[O-])(F)F)C(F)(F)F.[Na+]
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | 43 g | O | H2O
product | sodium 2-hydroxy-1,1,3,3,3-pentafluoro-propane-1-sulfonate | OC(C(S(=O)(=O)[O-])(F)F)C(F)(F)F.[Na+] | InChI=1S/C3H3F5O4S.Na/c4-2(5,6)1(9)3(7,8)13(10,11)12;/h1,9H,(H,10,11,12);/q;+1/p-1
